US05190953
1H-Indole-3-carboxylic acid 1-azabicyclo[3.3.1]non-5-ylmethyl ester
A solution of indole-3-carboxylic acid (1.62 g, 10 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was treated with 1,1'-carbonyldiimidazole (1.70 g, 10.5 mmol),stirred for one hour, and degassed with a stream of nitrogen for 10 minutes giving a suspension. Meanwhile, a cooled (-10° C.) solution of 1-azabicyclo[3.3.1]nonane-5-methanol (1.71 g, 11 mmol) in anhydrous tetrahydrofuran (10 mL) under nitrogen was treated (via syringe) with 2.5 N n-butyllithium/hexane (10.7 mmol), stirred for 30 minutes, concentrated in vacuo, and taken up in anhydrous tetrahydrofuran (10 mL) under nitrogen. The 1,1'-carbonyldiimidazole adduct suspension was transferred into this solution, and the mixture was stirred overnight (18 hours) and concentrated m vacuo. The residue was partitioned between methylene chloride (100 mL) containing a little isopropanol and saturated sodium carbonate (50 mL), and the organic layer was separated. The aqueous solution was dried (Na2SO4), concentrated in vacuo, and filtered through alumina (eluted with 7% methanol/methylene chloride). The filtrated was concentrated in vacuo and the residue was triturated from cold ether and recrystallized from acetonitrile (2 crops) to afford 1.79 g (60% ) of colorless crystals; m.p. 207°-209° C.

reactant | indole-3-carboxylic acid | 10 mmol, 1.62 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1,1'-carbonyldiimidazole | 10.5 mmol, 1.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-azabicyclo[3.3.1]nonane-5-methanol | 11 mmol, 1.71 g | N12CCCC(CCC1)(C2)CO | C9H17NO
reactant | n-butyllithium hexane | 10.7 mmol, 2.5 N | C(CCC)[Li].CCCCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1H-Indole-3-carboxylic acid 1-azabicyclo[3.3.1]non-5-ylmethyl ester | 1.79 g, 60% | N12CCCC(CCC1)(C2)COC(=O)C2=CNC1=CC=CC=C21 | C18H22N2O2
